US07943639B2
tert-Butyl 4-(6-bromoquinolin-4-yl)-1,4-diazepane-1-carboxylate
6-Bromo-4-chloroquinoline (3.5 g, 14.5 mmol) was reacted with tert-butyl 1,4-diazepane-1-carboxylate (3.7 g, 18.8 mmol) and K2CO3 (4 g, 29 mmol) in DMSO at 100° C. overnight. After cooling the mixture was poured into water and extracted with DCM. The organic layer was washed with water, dried (MgSO4) and evaporated. The residue was purified by flash chromatography using a gradient of EtOAc:hexane 1:1 to 2:1 giving 2.1 g (36%) of yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 1.47 (d, J=5.5 Hz, 9H) 2.08-2.16 (m, 2H) 3.35-3.44 (m, 4H) 3.60-3-73 (m, 4H) 6.87 (d, J=5.5 Hz, 1H) 7.69 (dd, J=9.0, 2.0 Hz, 1H) 7.88 (d, J=8.5 Hz, 1H) 8.16 (s, 1H) 8.65 (d, J=5.0 Hz, 1H). MS (ESI+) for C19H24BrN3O2 m/z 406.4 (M+H)+. HRMS (EI) calcd for C19H24BrN3: 405.1052, found 405.1045.

reactant | 6-Bromo-4-chloroquinoline | 14.5 mmol, 3.5 g | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | tert-butyl 1,4-diazepane-1-carboxylate | 18.8 mmol, 3.7 g | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | K2CO3 | 29 mmol, 4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | tert-Butyl 4-(6-bromoquinolin-4-yl)-1,4-diazepane-1-carboxylate | BrC=1C=C2C(=CC=NC2=CC1)N1CCN(CCC1)C(=O)OC(C)(C)C | C19H24BrN3O2
